US07507828B2
1,5-Diaminopentane (0.75 g, 7.21 mmol) was stirred while tritylsulfanyl-acetic acid methyl ester (2.53 g, 7.27 mmol) was added slowly. The mixture was heated at 100° C. for 2 h while methyl alcohol escaped. The product was isolated by column chromatography (dichloromethane/MeOH/Et3N=10/1/0.1) to provide 7-Amino-1-tritylsulfanyl-heptan-2-one (1.63 g, 54%). 1H NMR (300 MHz, CD3OD) δ 7.42-7.36 (m, 6H), 7.31-7.18 (m, 9H), 3.00 (t, J=6.9 Hz, 2H), 2.60 (t, J=6.9 Hz, 2H), 1.42 (m, 4H), 1.27 (m, 2H). 13C NMR (75 MHz, CD3OD) δ 171.1, 145.8, 130.9, 129.2, 128.2, 68.4, 42.5, 40.8, 37.4, 33.4, 30.1, 25.3.

reactant | 1,5-Diaminopentane | 7.21 mmol, 0.75 g | NCCCCCN | C5H14N2
reactant | tritylsulfanyl-acetic acid methyl ester | 7.27 mmol, 2.53 g | COC(CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H20O2S
reactant | methyl alcohol | CO | CH4O
solvent | dichloromethane MeOH Et3N | ClCCl.CO.CCN(CC)CC
product | 7-Amino-1-tritylsulfanyl-heptan-2-one | 1.63 g, 54% | NCCCCCC(CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H29NOS
